US07943636B2
A solution of potassium hydroxide (4.66 g, 83.1 mmol) in ethanol (181 mL) and water (45 mL) was cooled to approximately 0° C. Tetrahydro-4H-pyran-4-one (7.56 g, 75.5 mmol) and diethyl (2-oxopropyl)phosphonate (16.1 g, 83.1 mmol) were sequentially added. The reaction was allowed to warm to room temperature and stirred for five hours. The reaction mixture was washed with brine and the organic layer was separated. The aqueous layer was extracted three times with tert-butyl methyl ether. The combined organic fractions were dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was dissolved in a mixture of 20% ethyl acetate in hexane and chloroform, dried again over magnesium sulfate, filtered, concentrated under reduced pressure, and purified by automated flash chromatography (eluting with 35% to 45% ethyl acetate in hexane). The resulting colorless oil was dried under a stream of nitrogen to provide 8.03 g of 1-tetrahydro-4H-pyran-4-ylideneacetone.

reactant | potassium hydroxide | 83.1 mmol, 4.66 g | [OH-].[K+]
reactant | Tetrahydro-4H-pyran-4-one | 75.5 mmol, 7.56 g | O1CCC(CC1)=O | C5H8O2
reactant | diethyl (2-oxopropyl)phosphonate | 83.1 mmol, 16.1 g | O=C(CP(OCC)(OCC)=O)C | C7H15O4P
solvent | ethanol | 181 mL | C(C)O | C2H6O
solvent | water | 45 mL | O | H2O
product | 1-tetrahydro-4H-pyran-4-ylideneacetone | 8.03 g | O1CCC(CC1)=CC(=O)C | C8H12O2
